US09062078B2
Step A: 6-methyl-3-(2H-1,2,3-triazol-2-yl)picolinonitrile.
To 3-bromo-5-methylpicolinonitrile (2.2 g, 11 mmol) in DMF (28 mL) was added K2CO3 (1.7 g, 12 mmol) and 2H-1,2,3-triazole (650 μL, 11 mmol). The mixture was heated to 100° C. for 36 h, cooled to rt and extracted with EtOAc. The combined organics were dried (Na2SO4) and concentrated. Purification via silica gel chromatography (10-100% EtOAc in hexanes) gave the title compound (1 g, 48%).

reactant | 3-bromo-5-methylpicolinonitrile | 11 mmol, 2.2 g | BrC=1C(=NC=C(C1)C)C#N | C7H5BrN2
reactant | K2CO3 | 12 mmol, 1.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2H-1,2,3-triazole | 11 mmol, 650 μL | N=1NN=CC1 | C2H3N3
solvent | DMF | 28 mL | CN(C)C=O | C3H7NO
product | 6-methyl-3-(2H-1,2,3-triazol-2-yl)picolinonitrile | 1 g, 48% | CC1=CC=C(C(=N1)C#N)N1N=CC=N1 | C9H7N5
